US08865682B2
A mixture of 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]thiophene-2-carbaldehyde (120 mg, 0.34 mmol), 4-hydroxypiperidine (69 mg, 0.68 mmol) and 100 mg of 4 Å molecular sieves in 5 mL of anhydrous DMF was stirred under nitrogen for 16 hours. Acetic acid (20 mg) and 1M sodium cyanoborohydride (0.68 mL, 0.68 mmol) were then added. The mixture was diluted with 5 mL of anhydrous methanol and stirred at room temperature for 3 hours. The mixture was poured into 100 mL of water with stirring, and basified to about pH 8 with saturated NaHCO3 solution. The resulting precipitates were filtered, washed with water, and dried in vacuo to give the crude product, which was purified through silica gel column with 10-20% MeOH/CHCl3 to give (3E)-6-fluoro-3-[4-{5-[(4-hydroxypiperidin-1-yl)methyl]-3-thienyl}-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one as yellow powder. Yield: 38 mg, 26%.

reactant | 4-[(5E)-5-(6-fluoro-2-oxo-1,2-dihydro-3H-indol-3-ylidene)-2,2-dimethyl-2,5-dihydrofuran-3-yl]thiophene-2-carbaldehyde | 0.34 mmol, 120 mg | FC1=CC=C2/C(/C(NC2=C1)=O)=C\1/C=C(C(O1)(C)C)C=1C=C(SC1)C=O | C19H14FNO3S
reactant | 4-hydroxypiperidine | 0.68 mmol, 69 mg | OC1CCNCC1 | C5H11NO
reactant | sodium cyanoborohydride | 0.68 mmol, 1M, 0.68 mL | C(#N)[BH3-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 100 mL | O | H2O
solvent | Acetic acid | 20 mg | C(C)(=O)O | C2H4O2
product | (3E)-6-fluoro-3-[4-{5-[(4-hydroxypiperidin-1-yl)methyl]-3-thienyl}-5,5-dimethylfuran-2(5H)-ylidene]-1,3-dihydro-2H-indol-2-one | FC1=CC=C2\C(\C(NC2=C1)=O)=C\1/OC(C(=C1)C1=CSC(=C1)CN1CCC(CC1)O)(C)C | C24H25FN2O3S
